US09388189B2
(S)-2-(1-((5-(5-Amino-1,3,4-thiadiazol-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (50 mg, 0.12 mmol) was treated with hydrazinecarbothioamide (20 mg, 0.22 mmol) and phosphorus (V) oxychloride (12.5 μl, 0.13 mmol) in 1,4-dioxane (1 ml) according to the method described in Example 120 but stirring at 110° C. overnight. The residue was purified using SP1® Purification System (reverse phase, 0% to 100%, water-methanol/acetonitrile 1:1) to give 11 mg (19% yield) of the title compound.

reactant | (S)-4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 0.12 mmol, 50 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)O | C22H19N7O3
reactant | hydrazinecarbothioamide | 0.22 mmol, 20 mg | N(N)C(N)=S | CH5N3S
reactant | phosphorus (V) oxychloride | 0.13 mmol, 12.5 μl | O(Cl)Cl.[P+5]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(1-((5-(5-Amino-1,3,4-thiadiazol-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 11 mg, 19% yield | NC1=NN=C(S1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C23H20N10OS
